US08426411B2
To a mixture of N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)acetamide (1.52 g, 3.36 mmol, prepared using Y from Example #7, step H and Pd/C, G, AA [Table 2, Method 3, Rt=6.1 min, or =ND], Z with NaOH, A with Example #1 Step D, HATU, and TEA, and B with TEA) and 1,4-dioxane (25 mL) was added aqueous HCl (6 N, 25 mL, 150 mmol). The reaction was heated at about 100° C. for about 14 h and then was cooled to ambient temperature and concd under reduced pressure. To the resulting brown residue was added MeOH (30 mL) and the solution was concd under reduced pressure. To the resulting residue was added MeOH (5 mL) followed by slow addition of Et2O (20 mL). Initially a cloudy solution formed and then a dark oil/gum formed and the mixture was concd under reduced pressure. To the resulting brown residue was added MeOH (30 mL), (1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentan-amine (1.35 g, 2.50 mmol, UV purity 75%) from a separate reaction, and silica gel (7 g). The mixture was concd under reduced pressure and purified by silica gel chromatography eluting with a gradient of 0-100% (DCM/[2 M NH3 in MeOH] (9:1)) in DCM, the column was further flushed with MeOH then MeOH/aqueous NH4OH (9:1), to give (1S,3R,4S)-3-methyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine [Preparation #19.1] (0.092 g, 5%) as a dark brown solid: LC/MS (Table 1, Method a) Rt=1.35 min; MS m/z: 257 (M+H)+ and 2.9 g of brown residue that was partitioned between DCM and saturated aqueous NaHCO3 (50 mL each). The layers were separated and the aqueous layer was extracted with additional DCM (2×50 mL). The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give (1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine [Preparation #19.2](1.94 g, 78%) as a taupe foam: LC/MS (Table 1, Method a) Rt=1.80 min; MS m/z: 411 (M+H)+.

reactant | N-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)acetamide | C[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NC(C)=O | C22H24N6O3S
reactant | NaOH | [OH-].[Na+]
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 150 mmol, 6 N, 25 mL | Cl | ClH
reactant | (1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentan-amine | 2.50 mmol, 1.35 g | C[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C20H22N6O2S
catalyst | Pd/C | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (1S,3R,4S)-3-methyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.092 g, 5% | C[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)N | C13H16N6
